US04160863
B. cefadroxil Monohydrate
Cefadroxil DMF solvate (50 g.;~0.015 mole) was dissolved in 150 ml. water and 8.8 ml. HCl (36%). Charcoal (2.7 g.) and Celite (1.35 g.) were then added. After 30 minutes of stirring, the mixture was filtered through a Celite pad and washed with water. The filtered solution was heated to 40° and the pH adjusted to 2.5 with triethylamine. The mixture was then seeded with crystals of cefadroxil monohydrate and the pH adjusted to 4.5 with triethylamine. The suspension was stirred for one hour at 50° and progressively cooled to room temperature and then maintained for one hour at 0° to +5°. The crystalline cefadroxil monohydrate was collected, washed twice with cold water and dried at 40° to yield 30.8 g. (~76-77% yield) of product having the same physical characteristics as described in Example 1.

reactant | Cefadroxil DMF | ~0.015 mole, 50 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CN(C)C=O
reactant | HCl | Cl | ClH
reactant | Charcoal | 2.7 g | C | CH4
solvent | water | O | H2O
product | cefadroxil Monohydrate | ~76-77% yield | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)SC1)C(=O)O.O | InChI=1S/C16H17N3O5S.H2O/c1-7-6-25-15-11(14(22)19(15)12(7)16(23)24)18-13(21)10(17)8-2-4-9(20)5-3-8;/h2-5,10-11,15,20H,6,17H2,1H3,(H,18,21)(H,23,24);1H2/t10-,11-,15-;/m1./s1
